US06605617B2
2-Amino-5-(4-methylpiperazinyl)benzenecarbonitrile
5-(4-Methylpiperazinyl)-2-nitrobenzenecarbonitrile (1.0 eq) was dissolved in EtOAc. The flask was purged with nitrogen, and 10% Pd/C (0.1 eq) was added. The flask was evacuated and purged with H2 three times. The resulting mixture was stirred for three days at room temperature. The mixture was filtered through Celite and the filter pad was washed with EtOAc. The solvent was removed in vacuo to give a yellow solid which was purified by silica gel chromatography (5:1:95 MeOH:Et3N:EtOAc) to give the desired product as a yellow solid. LC/MS m/z 217.3 (MH+), Rf 0.95 minutes.

reactant | 5-(4-Methylpiperazinyl)-2-nitrobenzenecarbonitrile | 1.0 eq | CN1CCN(CC1)C=1C=CC(=C(C1)C#N)[N+](=O)[O-] | C12H14N4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.1 eq | [Pd] | Pd
product | 2-Amino-5-(4-methylpiperazinyl)benzenecarbonitrile | NC1=C(C=C(C=C1)N1CCN(CC1)C)C#N | C12H16N4
